US04563310
To P-ethyl-2-nitro-5-(2-chloro-4-trifluoro-methylphenoxy)phenylphosphinic acid chloride, prepared from P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)-phenylphosphinic acid (500 mg, 1.22 mmol) and thionyl chloride (3 ml) by the procedure of Example 25, in methylene chloride (3 ml) is added propargyl alcohol (3 ml) and triethyl amine (0.2 ml). The mixture is stirred at RT for 4 hours, after which the reaction is taken up in methylene chloride, washed, dried and evaporated. The crude product is purified by prep. TLC to give propargyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate, m/s 447 (M+).

reactant | P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)-phenylphosphinic acid | 1.22 mmol, 500 mg | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C15H12ClF3NO5P
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | propargyl alcohol | 3 ml | C(C#C)O | C3H4O
reactant | triethyl amine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | propargyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | C(C)P(OCC#C)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C18H14ClF3NO5P
